US07247625B2
To a stirred solution of 1-(2-aminophenyl)-ethanone (8.00 g, 59.20 mmol) in THF (200 mL) at 0° C. was slowly added 4-chlorophenyl magnesium bromide (1.0 M, 178 mL, 178 mmol) in ether. The reaction was allowed to warm to room temperature. After 3 hours, the reaction mixture was quenched with ammonium chloride solution (sat.) and extracted several times with ethyl acetate. The combined organic layers were dried over magnesium sulfate and concentrated. The crude solid was taken up in THF (200 mL) and CDI (10.56 g, 65.10 mmol) was added. The reaction solution was stirred overnight at room temperature, poured into 1N HCl, and extracted several times with ethyl acetate. The combined organic layers were dried over magnesium sulfate and trituration with ether gave 4-(4-chlorophenyl)-4-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one as a tan solid (5.19 g, 32%). 1H NMR (DMSO-d6): δ 10.30 (s, 1H), 7.46 (m, 3H), 7.36 (td, J=7.7, 1.0 Hz, 1H), 7.25 (d, J=8.6 Hz, 2H), 7.15 (t, J=7.6 Hz, 1H), 6.92 (d, J=7.7 Hz, 1H), 1.94 (s, 3H); MS (ESI) m/z [M+H]+=(274/276); MS (ESI) m/z [M−H]−=(272/274); Anal. calcd for C15H12ClNO2: C, 65.82; H, 4.42; N, 5.12. Found: C, 65.38; H, 4.58; N, 5.00.

reactant | 1-(2-aminophenyl)-ethanone | 59.20 mmol, 8.00 g | NC1=C(C=CC=C1)C(C)=O | C8H9NO
reactant | 4-chlorophenyl magnesium bromide | 178 mmol, 1.0 M, 178 mL | ClC1=CC=C(C=C1)[Mg]Br
reactant | CDI | 65.10 mmol, 10.56 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-(4-chlorophenyl)-4-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 5.19 g, 32% | ClC1=CC=C(C=C1)C1(OC(NC2=C1C=CC=C2)=O)C | C15H12ClNO2
